US03984355
ii. Process for Preparing Compound (II) from 1,2,6-trimethyltricyclo]5,3,2,02,7 ]dodeca-5-ene, Compound (III):
A mixture of 20.4 g (0.1 mole) of 1,2,6-trimethyltricyclo[5,3,2,02,7 ]dodeca-5-ene and 17 g of sodium carbonate was added to 100 ml of dichloromethane, and the materils were mixed and stirred while keeping the temperature at 0° to 5°C. Then, 20.8 g (0.11 mole) of an acetic acid solution containing 40% peracetic acid was added dropwise thereto over a period of 2 hours at that temperature. The materials were stirred at that temperature for 2 hours, and further stirred at room temperature for 3 additional hours. Subsequently, 200 ml of water was added thereto, and the resulting solution was extracted twice with dichloromethane. The extract was washed with an aqueous saturated sodium chloride solution until the solution became neutral, and then dried with anhydrous sodium sulfate. Dichloromethane was then recovered by distillation, and the residue was distilled in vacuum, whereby 21 g of the fraction of Compound (II) (85°-90°C/0.03 mmHg) was obtained.

reactant | 1,2,6-trimethyltricyclo[5,3,2,02,7 ]dodeca-5-ene | 0.1 mole, 20.4 g | CC12C3(CCC=C(C3(CCC1)CC2)C)C | C15H24
reactant | sodium carbonate | 17 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic acid | 0.11 mole, 20.8 g | C(C)(=O)O | C2H4O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | water | 200 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | dodeca-5-ene | CCCCC=CCCCCCC | C12H24
